US06166030
a) 3-Thiophenecarboximidothioic acid, methyl ester, hydroiodide
The title compound was prepared from 3-thiophenecarbothioamide and methyl iodide by a procedure analogous to that described in Example 1(d) of WO 95/05363.

reactant | 3-thiophenecarbothioamide | S1C=C(C=C1)C(N)=S | C5H5NS2
reactant | methyl iodide | CI | CH3I
product | 3-Thiophenecarboximidothioic acid, methyl ester, hydroiodide | I.S1C=C(C=C1)C(=N)SC | InChI=1S/C6H7NS2.HI/c1-8-6(7)5-2-3-9-4-5;/h2-4,7H,1H3;1H
